Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([O:3][H:11])[C@:4]([N:6]([H:12])[H:13])([H:10])[O:5]1)([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],38.6209294624606
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[N:6]>>[O:1]=[C:2]=[C:3]=[C:4]([N+:6]#[C-:5])[H:7],64.515199646426
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:5]=[N:6][O:4][H:13])([H:7])([H:8])[H:9],84.3085822573886
[N:1]1([H:8])[C:2](=[O:7])[C@:3]1([C@:4]1([H:10])[C:5]([H:11])=[N:6]1)[H:9]>>[N:1](=[c:2]1/[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[n:6][o:7]1)\[H:8],23.8492283821616
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:10].[C:2]1[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18],87.84144556259209
[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:5]1=[N:6][C:4]1=[C:3]=[C:2]([H:10])[H:11])([H:7])([H:8])[H:9],127.829067989237
[C:1]([H:7])([H:8])([H:9])[H:14].[C@@:2]1([C:3]([H:11])([H:12])[H:13])([H:10])/[C:4](=[N:6]/[H:15])[O:5]1>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],37.3145146249824
[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9]>>[N:1]([C:2]1=[C:4]=[C:5]1[C:6]#[N+:7][O-:3])([H:8])[H:9],144.519429960048
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([O:4]/[C:3](=[C:2](/[C:5]#[C:6][H:10])[H:8])[H:9])[H:7],80.1959486652802
[O+:1]1=[C-:2][C@@:3]1([C@@:4]1([H:9])[O:5][C:6]1([H:7])[H:10])[H:8]>>[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10],35.203237315833775
[N:1]([C@:3]1([H:10])[C-:2]=[C:7]([H:13])[C+:5]([O:6][H:12])[N:4]1[H:11])([H:8])[H:9]>>[N:1]([c:2]1[c:3]([H:10])[n:4]([H:11])[c:5]([O:6][H:12])[c:7]1[H:13])([H:8])[H:9],26.840891256709803
[C:1](=[N:2][C:3](=[O:4])[N:5]([C:6]([N:7]([H:11])[H:14])([H:10])[H:13])[H:12])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[N:5](/[C:6](=[N:7]/[H:14])[H:13])[H:12])[H:11])([H:8])([H:9])[H:10],45.3277159923217
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])/[C:4]1=[C:5](/[C:6](=[O:7])[H:17])[H:15])([H:8])([H:9])[H:10].[H:14][H:16],92.7878986229821
[C:1]([C:2]([O:3]/[C:4]([C:5]([H:14])([H:15])[H:16])=[C:6](/[O:7][H:13])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],54.688385919320105
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2]([O:3][H:10])=[N:4]\[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],40.1573336100983
[C:1]([O:6][C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10].[O:2]1[C:3]([H:11])([H:12])[C:4]1=[O:5]>>[C:1]([O:2][C:3]([C:4](=[O:5])[O:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],53.756142360838496
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]1(/[N:4]=[N:5]/[H:12])[C:6]([H:13])=[C:7]1[H:14])[H:11])([H:8])([H:9])[H:10],96.351035189778
[O-:1][C:6]([C:5]([C:4]([N:3]([C:2][H:8])[H:9])([H:10])[H:11])([H:12])[H:13])=[C+:7][H:14]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],4.984378648353214
[C-:1]([N:2]([C+:3]([H:12])[H:13])[H:11])([H:8])[H:10].[C-:4]#[O+:5].[O:6]([C:7]([H:14])([H:15])[H:16])[H:9]>>[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],8.664793003728704
[C:1](/[C:2](=[C:3](\[O:4][H:10])[C:5]([O:6][H:14])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],50.14487676740511
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]1=[C:6]([H:7])[H:16],81.8922621324384
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:5])[C:6](=[O:7])[H:15])([H:8])([H:9])[H:10].[C:3](=[C:4]([H:13])[H:14])([H:11])[H:12],65.4310206980125
[C:1]([C@@:7]1([H:17])[C@:3]([C:2][H:11])([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]1[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],20.17180328781029
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C@@:4]1([H:12])[C:5]([H:13])([H:14])[O:6]1)[H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]1[H:11].[C:4]([C:5]([H:10])([H:13])[H:14])(=[O:6])[H:12],67.4604459596042
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@:3]1([H:14])[N-:4][N:5]([H:12])[C:6]([H:13])=[C+:7]1)[H:11])([H:8])([H:9])[H:10],85.22973930008791
